US06596743B2
Diphenylacetyl-carbamic acid 2-(3,4-dimethoxy-phenyl)ethyl ester
The title compound, white solid, m.p. 144° C. and MS: m/e=419.5 (M+H+) was prepared in accordance with the general method of example 1 from diphenylacetyl isocyanate and 2-(3,4-dimethoxy-phenyl)-ethanol.

reactant | diphenylacetyl isocyanate | C1(=CC=CC=C1)C(C(=O)N=C=O)C1=CC=CC=C1 | C15H11NO2
reactant | 2-(3,4-dimethoxy-phenyl)-ethanol | COC=1C=C(C=CC1OC)CCO | C10H14O3
product | Diphenylacetyl-carbamic acid 2-(3,4-dimethoxy-phenyl)ethyl ester | COC=1C=C(C=CC1OC)CCOC(NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C25H25NO5
